US09387202B2
Using the procedure of Example 7, 1-(4-fluoro-phenyl)-4-iodo-2-oxo-1,2-dihydro-pyridine-3-carboxylic acid [4-(2-acetylamino-pyridin-4-yloxy)-2,5-difluoro-phenyl]-amide (90 mg, 0.145 mmol) and a methanolic solution of ethylamine (10 mL) were combined to afford N-(4-((2-acetamidopyridin-4-yl)oxy)-2,5-difluorophenyl)-4-(ethylamino)-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide (60 mg, 76.9% yield). 1H NMR (400 MHz, DMSO-d6): δ 13.23 (s, 1 H), 10.58 (s, 1 H), 10.49 (m, 1 H), 8.47 (dd, J=12.9, 7.2 Hz, 1 H), 8.18 (d, J=5.8 Hz, 1 H), 7.70 (d, J=7.9 Hz, 1 H), 7.65 (m, 1 H), 7.52 (dd, J=11.2, 7.4 Hz, 1 H), 7.47 (m, 2 H), 7.34 (m, 2 H), 6.70 (dd, J=5.8, 2.5 Hz, 1 H), 6.28 (d, J=7.9 Hz, 1 H), 3.42 (m, 2 H), 2.03 (s, 3 H), 1.24 (t, J=7.2 Hz, 3 H); MS (ESI) m/z: 538.0 (M+H).

reactant | 1-(4-fluoro-phenyl)-4-iodo-2-oxo-1,2-dihydro-pyridine-3-carboxylic acid [4-(2-acetylamino-pyridin-4-yloxy)-2,5-difluoro-phenyl]-amide | 0.145 mmol, 90 mg | C(C)(=O)NC1=NC=CC(=C1)OC1=CC(=C(C=C1F)NC(=O)C=1C(N(C=CC1I)C1=CC=C(C=C1)F)=O)F | C25H16F3IN4O4
reactant | ethylamine | 10 mL | C(C)N | C2H7N
product | N-(4-((2-acetamidopyridin-4-yl)oxy)-2,5-difluorophenyl)-4-(ethylamino)-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide | 60 mg, 76.9% yield | C(C)(=O)NC1=NC=CC(=C1)OC1=CC(=C(C=C1F)NC(=O)C=1C(N(C=CC1NCC)C1=CC=C(C=C1)F)=O)F | C27H22F3N5O4
